US06005137
2,2,3,3,4,4,5,5,6,6-decafluoro-1-(trichloromethyl)-1-cyclohexanol (Compound XVIII)
A solution of 30 g of perfluorocyclohexanone and 31.7 g of trichloroacetic acid was stirred in a pre-dried reaction vessel containing 113 mL of hexamethylphosphoramide. This mixture was cooled to -10° C. in a dry ice/acetone bath. Slight gas evolution was noted before and during the ketone addition. The stirred milky white reaction mixture was maintained at about 0° C. for an hour and then allowed to warm to 23° C. and stirring was continued 17 hours. The clear yellow solution was quenched with 150 mL of 10% HCl and then transferred to a separatory funnel with 400 mL of ethyl ether. This organic phase was washed with 4×500 mL of dilute HCl and then 300 mL of saturated NaCl solution. The solvent was removed by evaporation. The residue (33.7 g) contained 40.8% product by GC, confirmed by fluorine NMR. This carbinol can be converted to the corresponding acrylate by methods previously described (cf. Example 24).

reactant | perfluorocyclohexanone | 30 g | FC1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)=O)F | C6F10O
reactant | trichloroacetic acid | 31.7 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | hexamethylphosphoramide | 113 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,2,3,3,4,4,5,5,6,6-decafluoro-1-(trichloromethyl)-1-cyclohexanol | FC1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(O)C(Cl)(Cl)Cl)F | C7HCl3F10O
